US04365084
To illustrate reaction of a cycloolefin in the process, a mixture of norbornene (bicyclo [2.2.1]-2-heptene) and acetic acid was reacted over HZSM-12 zeolite. The reaction was carried out on a steam bath at about 100° C. for 5.5 hours. The addition product, norbornyl acetate, was formed in about 95% yield.

reactant | norbornene | C12C=CC(CC1)C2 | C7H10
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | norbornyl acetate | about 95% yield | C(C)(=O)OC12CCC(CC1)C2 | C9H14O2
